US07034039B2
A solution of 2-(4-butoxy-3-{[(tert-butoxycarbonyl)amino]methyl}-2-isobutyl-1-oxo-1,2-dihydro-6-isoquinolinyl)-4-methyl-1,3-thiazole-5-carboxylic acid (0.60 g, 1.1 mmol), 1-ethyl,-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.42 g, 2.2 mmol) and 1-hydroxybenzotriazole ammonium salt (0.33 g, 2.2 mmol) in N,N-dimethylformamide (10 ml) was stirred at room temperature for 2 h. The reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The resulting crystals were recrystallized from tetrahydrofuran-diisopropyl ether to give tert-butyl{6-[5-(-aminocarbonyl)-4-methyl-1,3-thiazol-2-yl]-4-butoxy-2-isobutyl-1-oxo-1,2-dihydro-3-isoquinolinyl}methylcarbamate (0.58 g, 96.7%) as crystals.

reactant | 2-(4-butoxy-3-{[(tert-butoxycarbonyl)amino]methyl}-2-isobutyl-1-oxo-1,2-dihydro-6-isoquinolinyl)-4-methyl-1,3-thiazole-5-carboxylic acid | 1.1 mmol, 0.60 g | C(CCC)OC1=C(N(C(C2=CC=C(C=C12)C=1SC(=C(N1)C)C(=O)O)=O)CC(C)C)CNC(=O)OC(C)(C)C | C28H37N3O6S
reactant | 3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 2.2 mmol, 0.42 g | Cl.CN(CCCN=C=N)C
reactant | 1-hydroxybenzotriazole ammonium salt | 2.2 mmol, 0.33 g | [NH4+].ON1N=NC2=C1C=CC=C2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | tert-butyl{6-[5-(-aminocarbonyl)-4-methyl-1,3-thiazol-2-yl]-4-butoxy-2-isobutyl-1-oxo-1,2-dihydro-3-isoquinolinyl}methylcarbamate | 0.58 g, 96.7% | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1OCCCC)C=1SC(=C(N1)C)C(=O)N)=O)CC(C)C)=O | C28H38N4O5S
